US07687627B2
(S)-N-{3-[4-(4-Fluoro-4-methanesulfonyloxymethylpiperidin-1-yl)-3-fluorophenyl]-2-oxo-oxazolidin-5-ylmethyl}-acetamide
The title compound was prepared by reacting (S)-N-{3-[3-fluoro-4-(4-fluoro-4-hydroxymethyl-piperidin-1-yl)-3-fluorophenyl]-2-oxo-oxazolidin-5-ylmethyl}-acetamide (0.76 mmol) with methanesulfonyl chloride (0.91 mmol) in dichloromethane (10 ml) at 10° C. in presence of triethylamine (1.3 mmol) followed by purification by using silica gel column chromatography in 75% yield. M.P. 182-183° C. and MS (M+1)=462 (MH+, 100%) M.F.=C19H25F2N3O6S.

reactant | (S)-N-{3-[3-fluoro-4-(4-fluoro-4-hydroxymethyl-piperidin-1-yl)-3-fluorophenyl]-2-oxo-oxazolidin-5-ylmethyl}-acetamide | 0.76 mmol | FC1(CC(=CC=C1N1CCC(CC1)(CO)F)N1C(O[C@H](C1)CNC(C)=O)=O)F | C18H24F3N3O4
reactant | methanesulfonyl chloride | 0.91 mmol | CS(=O)(=O)Cl | CH3ClO2S
reactant | triethylamine | 1.3 mmol | C(C)N(CC)CC | C6H15N
solvent | dichloromethane | 10 ml | ClCCl | CH2Cl2
product | (S)-N-{3-[4-(4-Fluoro-4-methanesulfonyloxymethylpiperidin-1-yl)-3-fluorophenyl]-2-oxo-oxazolidin-5-ylmethyl}-acetamide | 75% yield | FC1(CCN(CC1)C1=C(C=C(C=C1)N1C(O[C@H](C1)CNC(C)=O)=O)F)COS(=O)(=O)C | C19H25F2N3O6S
